US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester (1.10 g) and potassium carbonate (861 mg), the objective (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid (1.01 g) was obtained as colorless crystals.

reactant | (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester | 1.10 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C)OC | C17H23NO5S
reactant | potassium carbonate | 861 mg | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid | 1.01 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)OC)C(=O)O | C16H21NO5S
